US05567761
Preparation of urethane trimethylolpropane diacetoacetate (UTMPDAcAc).
800 g of the above product were mixed with 100 g of phenyl isocyanate and 0.1 g of dibutyltin dilaurate and heated at 50° C. until the NCO content reached zero.

reactant | phenyl isocyanate | 100 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | dibutyltin dilaurate | 0.1 g | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
product | urethane trimethylolpropane diacetoacetate | C(CC(=O)C)(=O)O.C(CC(=O)C)(=O)O.C(O)C(CC)(CO)CO.NC(=O)OCC | InChI=1S/C6H14O3.2C4H6O3.C3H7NO2/c1-2-6(3-7,4-8)5-9;2*1-3(5)2-4(6)7;1-2-6-3(4)5/h7-9H,2-5H2,1H3;2*2H2,1H3,(H,6,7);2H2,1H3,(H2,4,5)
